US08013156B2
4-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (10.0 g, 33 mmol), pyridin-4-yl-methanol (6.9 g, 63 mmol) and a solution of 1M potassium tert-butyl butoxide in tert-butyl alcohol (60.0 mL, 60 mmol) were combined and stirred at room temperature overnight. The reaction mixture is diluted with EtOAc and washed with H2O (3×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The crude product is purified by column chromatography (4:1 hexanes:EtOAc, followed by 1:1 hexanes:EtOAc) to give 7.1 g (57%) of 4-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid tert-butyl ester. 1H NMR (CDCl3) 8.65 (d, 2H), 7.32 (d, 2H), 5.49 (s, 2H), 3.55 (m, 8H) 1.48 (s, 9H) ppm. LC-MS (MH+)=378.

reactant | 4-(4-Chloro-[1,2,5]thiadiazol-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 33 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NSN=C1Cl | C11H17ClN4O2S
reactant | pyridin-4-yl-methanol | 63 mmol, 6.9 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | potassium tert-butyl butoxide | 1M | C(C)(C)(C)C([O-])CCC.[K+]
reactant | tert-butyl alcohol | 60 mmol, 60.0 mL | C(C)(C)(C)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 7.1 g, 57% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NSN=C1OCC1=CC=NC=C1 | C17H23N5O3S
